US08809326B2
Synthesis of 1-benzyl-3-(1-oxo-1,2-dihydro-isoquinolin-6-yl)-urea. Method 4
6-Amino-2H-isoquinolin-1-one (0.2 mmol, 39 mg) and benzyl isocyanate (0.2 mmol, 27 mg) were dissolved in 1 mL DMA. The mixture was allowed to stir at 60° C. overnight. The product was obtained by HPLC purification. MS (M+1) 294.

reactant | 6-Amino-2H-isoquinolin-1-one | 0.2 mmol, 39 mg | NC=1C=C2C=CNC(C2=CC1)=O | C9H8N2O
reactant | benzyl isocyanate | 0.2 mmol, 27 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | 1-benzyl-3-(1-oxo-1,2-dihydro-isoquinolin-6-yl)-urea | C(C1=CC=CC=C1)NC(=O)NC=1C=C2C=CNC(C2=CC1)=O | C17H15N3O2
